US07772226B2
(a) t-Butyl 4-[1-(2-butynyl)-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate
0.299 g of triethylamine, 0.023 g of 4-dimethylaminopyridine and 0.645 g of di-t-butyl dicarbonate were added to 20 ml of an N,N-dimethylformamide solution of 0.448 g of 3-(2-butynyl)-2-(piperazin-1-yl)-3,5-dihydroimidazo[4,5-d]pyridazin-4-one trifluoroacetate at room temperature, and the mixture was stirred for five hours. Then, 2 ml of a 5N aqueous sodium hydroxide solution was added to this solution, and the mixture was stirred for one hour. The reaction solution was poured into a mixture of 200 ml of ethyl acetate and 100 ml of a saturated aqueous ammonium chloride solution. The organic layer was washed twice with 100 ml of water and then with 100 ml of a saturated sodium chloride solution. The organic liquid was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.298 g of the title compound was obtained from the fraction eluted with ethyl acetate.

reactant | di-t-butyl dicarbonate | 0.645 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(2-butynyl)-2-(piperazin-1-yl)-3,5-dihydroimidazo[4,5-d]pyridazin-4-one trifluoroacetate | 0.448 g | FC(C(=O)O)(F)F.C(C#CC)N1C(=NC=2C=NNC(C21)=O)N2CCNCC2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
catalyst | 4-dimethylaminopyridine | 0.023 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.299 g | C(C)N(CC)CC | C6H15N
product | t-Butyl 4-[1-(2-butynyl)-7-oxo-6,7-dihydro-1H-imidazo[4,5-d]pyridazin-2-yl]piperazine-1-carboxylate | 0.298 g | C(C#CC)N1C(=NC2=C1C(NN=C2)=O)N2CCN(CC2)C(=O)OC(C)(C)C | C18H24N6O3
